US06673809B2
N-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclopent-2-enyl]2-(2-methoxy-phenyl)-acetamide
To a stirred solution of 5-(4-amino-cyclopent-2-enyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one (97 mg, 0.31 mmol) in CH2Cl2 (4 mL) was added 2-methoxy phenyl acetic acid (66.3 mg, 0.40 mmol), Et3N (0.11 ml, 0.40 mmol) and EDCI (77 mg, 0.40 mmol) and stirred at r.t. for 18 hours. The mixture was diluted with CH2Cl2, washed (brine), dried (Na2SO4), filtered and concentrated. Column chromatography (silica gel, hexanes/ethyl acetate, gradient) gave the title compound (59 mg, 41%). Mass Spectrum (FIA) (m/z) 464.2 (M+1) Anal. Calc. For C25H22ClN3O4. Theoretical: C, 64.73, H, 4.78, N, 9.06%. Found. C, 64.78, H, 4.91, N, 8.83%.

reactant | 5-(4-amino-cyclopent-2-enyl)-9-chloro-3-methyl-5H-isoxazolo[4,3-c]quinolin-4-one | 0.31 mmol, 97 mg | NC1C=CC(C1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O | C16H14ClN3O2
reactant | 2-methoxy phenyl acetic acid | 0.40 mmol, 66.3 mg | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | Et3N | 0.40 mmol, 0.11 ml | CCN(CC)CC | C6H15N
reactant | EDCI | 0.40 mmol, 77 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclopent-2-enyl]2-(2-methoxy-phenyl)-acetamide | 59 mg, 41% | ClC=1C=2C=3C(C(N(C2C=CC1)C1C=CC(C1)NC(CC1=C(C=CC=C1)OC)=O)=O)=C(ON3)C | C25H22ClN3O4
